US03931197
A mixture of 17.6 g (0.038 mole) of 4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]-1-(2-naphthyl)butan-1-one hydrochloride, 400 ml of concentrated HCl and 1500 ml of isopropyl alcohol is heated on a steam bath for 16 hours after which the solvent and excess acid are removed at reduced pressure. The remaining residue is recrystallized from isopropyl alcohol and ethyl acetate to give 4-[4-(diphenylmethylene)piperidino]-1-(2-naphthyl)butan-1-one hydrochloride.

reactant | 4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]-1-(2-naphthyl)butan-1-one hydrochloride | 0.038 mole, 17.6 g | Cl.OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CCCC(=O)C1=CC2=CC=CC=C2C=C1
reactant | HCl | 400 ml | Cl | ClH
solvent | isopropyl alcohol | 1500 ml | C(C)(C)O | C3H8O
product | 4-[4-(diphenylmethylene)piperidino]-1-(2-naphthyl)butan-1-one hydrochloride | Cl.C1(=CC=CC=C1)C(=C1CCN(CC1)CCCC(=O)C1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | InChI=1S/C32H31NO.ClH/c34-31(30-18-17-25-10-7-8-15-29(25)24-30)16-9-21-33-22-19-28(20-23-33)32(26-11-3-1-4-12-26)27-13-5-2-6-14-27;/h1-8,10-15,17-18,24H,9,16,19-23H2;1H
